US05498630
To a solution of 3,4-dibromothiophene (15 g, 62 mmol) in 80 mL ether under a positive nitrogen atmosphere was added dropwise 75 mL 1.7M t-BuLi in pentane at below -73° C. and the resulting reaction solution was stirred at -78° C. for 0.5 h. After that, the ether solution was poured into dry ice and extracted with water. The aq solution was washed with ether and then acidified with concentrated HCl. The solid was filtered and air-dried to give 9 g of 4-bromo-3-thiophenecarboxylic acid, yield 70.3%.

reactant | 3,4-dibromothiophene | 62 mmol, 15 g | BrC1=CSC=C1Br | C4H2Br2S
reactant | t-BuLi | 1.7M, 75 mL | [Li]C(C)(C)C
reactant | dry ice | C(=O)=O | CO2
solvent | ether | 80 mL | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | 4-bromo-3-thiophenecarboxylic acid | 9 g, yield 70.3% | BrC=1C(=CSC1)C(=O)O | C5H3BrO2S
